US08084448B2
C. 5-[2-Benzyloxy-4-((S)-5-oxopyrrolidin-2-ylmethyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one
To a suspension of PS-isocyanate resin (0.500 g) in THF is added TBAF (1M in THF, 2.5 mL) and the mixture is stirred at RT for 2 h. The resin is filtered off and the TBAF solution is added to a stirring solution of 5-[2-benzyloxy-4-((S)-5-oxopyrrolidin-2-ylmethyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (0.660 g, 1.28 mmol) in THF (20 mL). The mixture is stirred at 50° C. for 18 h. The mixture is allowed to cool to RT then is diluted with water and extracted with EtOAc (3×). The organic layer is washed with brine, dried over Na2SO4 and concentrated. The residue is purified on a reverse phase silica cartridge eluting with EtOH/H2O (10-60%) to provide the title compound: (M−1)−=414.

reactant | isocyanate | 0.500 g | [N-]=C=O
reactant | TBAF | 1M, 2.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 5-[2-benzyloxy-4-((S)-5-oxopyrrolidin-2-ylmethyl)-phenyl]-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 1.28 mmol, 0.660 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C[C@H]1NC(CC1)=O)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C25H33N3O5SSi
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5-[2-Benzyloxy-4-((S)-5-oxopyrrolidin-2-ylmethyl)-phenyl]-1,1-dioxo-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C[C@H]1NC(CC1)=O)N1CC(NS1(=O)=O)=O | C20H21N3O5S
